US05298518
2-n-Butyl-1-[{5'-chloro-2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]benzimidazole
1.2 g of 2-n-butyl-1-{(5'-chloro-2'-cyanobiphenyl-4-yl)methyl}benzimidazole prepared in Preparation Example 8, 910 mg of sodium azide and 750 mg of ammonium chloride were heated while stirring in 50 ml of dimethylformamide as a reaction solvent at an internal temperature of 125° C. for 50 hr. After cooling, a dilute sodium hydroxide solution and ethyl acetate were added thereto for phase separation, thereby obtaining a watery phase. The watery phase was wealky acidified with acetic acid, extracted with chloroform and washed with water. The extract was dried over anhydrous magnesium sulfate, and the residue was subjected to silica gel chromatography (chloroform:etanol:acetic acid=98:2:0.2). A fraction of the intended title compound was concentrated and then recrystallized from ethyl acetate-isopropyl ethermethanol. The yield was 450 mg.

reactant | 2-n-butyl-1-{(5'-chloro-2'-cyanobiphenyl-4-yl)methyl}benzimidazole | 1.2 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)C#N)C=CC=C2 | C25H22ClN3
reactant | sodium azide | 910 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 750 mg | [Cl-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-n-Butyl-1-[{5'-chloro-2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)C1=NN=NN1)C=CC=C2 | C25H23ClN6
